US08541411B2
Preparation of methyl 1-[(2,3-dichlorophenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate
A mixture of methyl 5-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-7-carboxylate, prepared as described in Example 45 (1.5 g, 4.56 mmol) and potassium carbonate (1.889 g, 13.67 mmol) in N,N-Dimethylformamide (DMF) (10 mL) was stirred at rt for 10 min. After addition of 1-(bromomethyl)-2,3-dichlorobenzene (1.639 g, 6.83 mmol), the mixture was warmed to 80° C. and stirred for 3 h at this temperature. The resulting mixture was cooled to rt and poured over ice. The precipitate formed was collected by filtration and air dried to give crude product (2.2 g, 4.51 mmol, 99% yield) (91% pure). A portion of this material (230 mg) was purified by reverse phase-HPLC (25 to 95% AcCN in water, plus 0.1% TFA) to give the desired product (137.4 mg, 0.276 mmol, 6.05% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.65 (d, J=2.27 Hz, 1H), 7.61 (dd, J=8.08, 1.26 Hz, 1H), 7.48 (d, J=2.27 Hz, 1H), 7.24 (t, J=7.96 Hz, 1H), 6.25 (dd, J=7.83, 1.26 Hz, 1H), 5.77 (s, 2H), 3.93 (s, 3H), 3.68-3.81 (m, 4H), 3.13-3.24 (m, 4H). MS (ES+) m/e 488 [M+H]+.

reactant | methyl 5-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-7-carboxylate | N1(CCOCC1)C1=CC2=C(NC(=N2)C(F)(F)F)C(=C1)C(=O)OC | C14H14F3N3O3
reactant | potassium carbonate | 13.67 mmol, 1.889 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(bromomethyl)-2,3-dichlorobenzene | 6.83 mmol, 1.639 g | BrCC1=C(C(=CC=C1)Cl)Cl | C7H5BrCl2
solvent | N,N-Dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | methyl 1-[(2,3-dichlorophenyl)methyl]-6-(4-morpholinyl)-2-(trifluoromethyl)-1H-benzimidazole-4-carboxylate | 0.276 mmol, 137.4 mg, 6.05% yield | ClC1=C(C=CC=C1Cl)CN1C(=NC2=C1C=C(C=C2C(=O)OC)N2CCOCC2)C(F)(F)F | C21H18Cl2F3N3O3
